US05914339
5-{(2R)-2-[(2R)-2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(2-m-tolyl-ethyl) ester hydrochloride salt
The title compound was prepared as a brown oil from 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid and 2-(3-methylphenyl)ethanol according to the procedure of Example 1; yield: 81%; 1H NMR (300 MHz, CDCl3): δ 1.12 (m, J=6.3 Hz, 3H),2.27 (s, 6H), 2.79 (m, 7H), 3.19 (m, 1H), 3.48 (m, 2H), 4.29 (m, J=6.6 Hz, 4H), 5.49 (m, 1H,) 6.75 (m, J=8.1 Hz, 1H), 6.83 (m, 1H), 7.05 (m, 8H), 7.20 (m, 1H), 7.27 (m, 1H), 7.43 (s, 1H), 7.5 (m, 2H); MS (ES) m/z (relative intensity): 658 (M+ +H, 100).

reactant | 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid | ClC=1C=C(C=CC1)C(CNC(CC1=CC2=C(OC(O2)(C(=O)O)C(=O)O)C=C1)C)O | C20H20ClNO7
reactant | 2-(3-methylphenyl)ethanol | CC=1C=C(C=CC1)CCO | C9H12O
product | 5-{(2R)-2-[(2R)-2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(2-m-tolyl-ethyl) ester hydrochloride salt | yield: 81% | Cl.C1(=CC(=CC=C1)CCOC(=O)C1(OC2=C(O1)C=CC(=C2)C[C@@H](C)NC[C@H](O)C2=CC(=CC=C2)Cl)C(=O)OCCC=2C=C(C=CC2)C)C | InChI=1S/C38H40ClNO7.ClH/c1-25-7-4-9-28(19-25)15-17-44-36(42)38(37(43)45-18-16-29-10-5-8-26(2)20-29)46-34-14-13-30(22-35(34)47-38)21-27(3)40-24-33(41)31-11-6-12-32(39)23-31;/h4-14,19-20,22-23,27,33,40-41H,15-18,21,24H2,1-3H3;1H/t27-,33+;/m1./s1
